US05153318
a) 2-Amino-6-pyrrolidinyl-9-H-purine
2-Amino-6-chloropurine (Sigma, lot #69F4064, 5.0 g, 29.5 mmol) was stirred in pyrrolidine (Kodak, lot #B161, 30mL) at 80° C. for 24 hours. The solvent was evaporated to a gold solid which was recrystalized from methanol to yield 3.41 g (16.7 mmol, 58%); mp=265°C.

reactant | 2-Amino-6-chloropurine | 29.5 mmol, 5.0 g | NC1=NC(=C2NC=NC2=N1)Cl | C5H4ClN5
reactant | pyrrolidine | 30mL | N1CCCC1 | C4H9N
product | 2-Amino-6-pyrrolidinyl-9-H-purine | NC1=NC(=C2N=CNC2=N1)N1CCCC1 | C9H12N6
